US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(2-pyrrolidin-1-yl-ethyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione
The title compound, MS: m/e=597.1 (M+H+), was prepared in accordance with the general method of example 99 from 8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione and 1-(2-chloroethyl)-pyrrolidine.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione | FC(C=1C=C(C(=O)N2CCC3(C(NC(N3C3=C(C=CC=C3)C)=O)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C23H19F6N3O3
reactant | 1-(2-chloroethyl)-pyrrolidine | ClCCN1CCCC1 | C6H12ClN
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(2-pyrrolidin-1-yl-ethyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione | FC(C=1C=C(C(=O)N2CCC3(C(N(C(N3C3=C(C=CC=C3)C)=O)CCN3CCCC3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C29H30F6N4O3
